US05679696
A solution of potassium carbonate (7.4 g) in water (72 mL) is added, dropwise, to a stirred solution of methyl 3-(tetrahydrothiophen-3-oxy)-4-methoxybenzoate (11.8 g) in methanol (200 mL) at room temperature. After the addition is complete, the solution is stirred and heated at 60°-70° C. for 5 hours and allowed to stand at room temperature overnight. The solution is evaporated, the residue is dissolved in water, acidified with glacial acetic acid and the precipitate formed is collected and dried, to give 3-(tetrahydrothiophen-3-oxy)-4-methoxybenzoic acid (7.4 g). m.p. 177°-179° C. [Elemental analysis: C,55.3; H,5.5; calculated: C,56.7; H,5.55%].

reactant | potassium carbonate | 7.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-(tetrahydrothiophen-3-oxy)-4-methoxybenzoate | 11.8 g | S1CC(CC1)OC=1C=C(C(=O)OC)C=CC1OC | C13H16O4S
solvent | water | 72 mL | O | H2O
solvent | methanol | 200 mL | CO | CH4O
product | 3-(tetrahydrothiophen-3-oxy)-4-methoxybenzoic acid | 7.4 g | S1CC(CC1)OC=1C=C(C(=O)O)C=CC1OC | C12H14O4S
